US05574042
To a solution of 2,4-dichloro-6-mercapto-3-methylaniline (2.08 g) in dichloromethane (40 ml) was added 1,1'-carbonyldiimidazole (1.78 g) at ambient temperature. The mixture was stirred for one hour at the same temperature. The separated precipitate was collected by filtration, washed with dichloromethane, and dried to give 4,6-dichloro-5-methyl-2-benzothiazolinone (1.40 g).

reactant | 2,4-dichloro-6-mercapto-3-methylaniline | 2.08 g | ClC1=C(N)C(=CC(=C1C)Cl)S | C7H7Cl2NS
reactant | 1,1'-carbonyldiimidazole | 1.78 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | 4,6-dichloro-5-methyl-2-benzothiazolinone | 1.40 g | ClC1=C(C(=CC2=C1NC(S2)=O)Cl)C | C8H5Cl2NOS
